US04820703
To a solution of 9.1 g of 5-(2-chlorophenyl)-7-[2-(4-isobutylphenyl)ethyl]-3-methyl-1,3-dihydro-2H-thieno[2,3-e]-1,4-diazepine-2-thione in 150 ml of tetrahydrofuran is added 3.1 g of 100% hydrazine hydrate under ice-cooling and the mixture is stirred at room temperature for 2 hours. After the tetrahydrofuran is distilled off under reduced pressure, the residue is dissolved in 200 ml of chloroform and the solution is dried over anhydrous magnesium sulfate. After separating by filtration, the filtrate is concentrated under reduced pressure. To the residue is added 50 ml of ethyl orthoacetate and the mixture is heated at 70°-72° C. for an hour. The mixture is concentrated under reduced pressure, and the residue is subjected to chromatography on silica gel and eluted with chloroform-methanol (100:1 to 100:3) solvent. The eluate of the objective fraction is concentrated and the residue is crystallized from isopropyl ether to give 4.3 g of 4-(2-chlorophenyl)-2-[2 -(4-isobutylphenyl)ethyl]-6,9-dimethyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepine as colorless crystals, melting at 129.5°-131.5° C.

reactant | 5-(2-chlorophenyl)-7-[2-(4-isobutylphenyl)ethyl]-3-methyl-1,3-dihydro-2H-thieno[2,3-e]-1,4-diazepine-2-thione | 9.1 g | ClC1=C(C=CC=C1)C=1C2=C(NC(C(N1)C)=S)SC(=C2)CCC2=CC=C(C=C2)CC(C)C | C26H27ClN2S2
reactant | hydrazine hydrate | 3.1 g | O.NN
reactant | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 4-(2-chlorophenyl)-2-[2 -(4-isobutylphenyl)ethyl]-6,9-dimethyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepine | 4.3 g | ClC1=C(C=CC=C1)C1=NC(C=2N(C3=C1C=C(S3)CCC3=CC=C(C=C3)CC(C)C)C(=NN2)C)C | C28H29ClN4S
